US08071592B2
1,1-Dimethylethyl {(3R,4S)-1-[2-(7-fluoro-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl]-3-hydroxy-4-piperidinyl}carbamate (240 mg, 0.5905 mmol) was dissolved in DCM (10 ml) and the solution was treated with 4M hydrogen chloride in 1,4-dioxane (2 mL). Effervescence and formation of a precipitate was observed. After 2 h, the solvents were removed under reduced pressure and the residue was dried under reduced pressure overnight, to give 1-{2-[(3R,4S)-4-amino-3-hydroxy-1-piperidinyl]ethyl}-7-fluoro-1,5-naphthyridin-2(1H)-one dihydrochloride as an off-white solid (220 mg).

reactant | 1,1-Dimethylethyl {(3R,4S)-1-[2-(7-fluoro-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl]-3-hydroxy-4-piperidinyl}carbamate | 0.5905 mmol, 240 mg | FC1=CN=C2C=CC(N(C2=C1)CCN1C[C@H]([C@H](CC1)NC(OC(C)(C)C)=O)O)=O | C20H27FN4O4
reactant | hydrogen chloride | 4M | Cl | ClH
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 1-{2-[(3R,4S)-4-amino-3-hydroxy-1-piperidinyl]ethyl}-7-fluoro-1,5-naphthyridin-2(1H)-one dihydrochloride | 220 mg | Cl.Cl.N[C@@H]1[C@@H](CN(CC1)CCN1C(C=CC2=NC=C(C=C12)F)=O)O | InChI=1S/C15H19FN4O2.2ClH/c16-10-7-13-12(18-8-10)1-2-15(22)20(13)6-5-19-4-3-11(17)14(21)9-19;;/h1-2,7-8,11,14,21H,3-6,9,17H2;2*1H/t11-,14+;;/m0../s1
